US07833644B2
7 Parts by weight of 4,6-diamino-1,3-benzenediol dihydrochloride was dissolved in 33 parts by weight of water deaerated with nitrogen. 6.180 Parts by weight of 2,5-dihydroxyterephthalic acid was dissolved in 64 parts by weight of a 1M sodium hydroxide aqueous solution, followed by deaeration with nitrogen. The 4,6-diamino-1,3-benzenediol dihydrochloride aqueous solution was dropwise added to the 2,5-dihydroxyterephthalic acid disodium salt aqueous solution over 10 minutes to form a white precipitate of 4,6-diamino-1,3-benzenediol/2,5-dihydroxyterepthalic acid salt. In this case, the reaction temperature was maintained at 90° C. The resultant salt was recovered by filtering and dispersed in, and mixed with, 3,000 parts by weight of water deaerated with nitrogen, followed by re-filtering. Procedures of the above dispersing/mixing and filtering were repeated 3 times.

reactant | 4,6-diamino-1,3-benzenediol dihydrochloride | Cl.Cl.NC1=C(C=C(C(=C1)N)O)O
reactant | 2,5-dihydroxyterephthalic acid | OC1=C(C(=O)O)C=C(C(=C1)C(=O)O)O | C8H6O6
reactant | 2,5-dihydroxyterephthalic acid disodium salt | [Na+].[Na+].OC1=C(C(=O)[O-])C=C(C(=C1)C(=O)[O-])O
solvent | water | O | H2O
solvent | sodium hydroxide | 1M | [OH-].[Na+]
product | 4,6-diamino-1,3-benzenediol 2,5-dihydroxyterepthalic acid | NC1=C(C=C(C(=C1)N)O)O.OC1=C(C(=O)O)C=C(C(=C1)C(=O)O)O | InChI=1S/C8H6O6.C6H8N2O2/c9-5-1-3(7(11)12)6(10)2-4(5)8(13)14;7-3-1-4(8)6(10)2-5(3)9/h1-2,9-10H,(H,11,12)(H,13,14);1-2,9-10H,7-8H2
